US07951954B2
b) (1-Methoxymethyl-propyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-amine
The sub-titled compound was prepared from (S)-1-methoxymethyl-propylamine hydrochloride (0.36 g) and 3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzaldehyde (Example 50, step a, 0.5 g) using the method of Example 75, step b. Yield 0.6 g.

reactant | (S)-1-methoxymethyl-propylamine hydrochloride | 0.36 g | Cl.COC[C@H](CC)N
reactant | 3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzaldehyde | O1C(CCCC1)OCCC=1C=C(C=O)C=CC1 | C14H18O3
product | (1-Methoxymethyl-propyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-amine | COCC(CC)NCC1=CC(=CC=C1)CCOC1OCCCC1 | C19H31NO3
